US05294626
c) 2-(4-Toluenesulphonylamino)indan-5-yl-3-pyridyl ketone
21 g of 2-aminoindan-5-yl-3-pyridyl ketone are dissolved together with 18.9 g of p-toluenesulphonic acid chloride in 250 ml of methylene chloride. Then 9.2 g of triethylamine are added dropwise. After 4 hours the suspension is rotary-evaporated to dryness. The residue is suspended in water, made alkaline with sodium hydroxide solution and then suction filtered.

reactant | 2-aminoindan-5-yl-3-pyridyl ketone | 21 g | NC1CC2=CC=C(C=C2C1)C1=NC=CC=C1C(=O)C=1C(=NC=CC1)C=1C=C2CC(CC2=CC1)N | C29H26N4O
reactant | p-toluenesulphonic acid chloride | 18.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 9.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Toluenesulphonylamino)indan-5-yl-3-pyridyl ketone | C1(=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C1=NC=CC=C1C(=O)C=1C(=NC=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C43H38N4O5S2
